US04109088
In 500 ml. of ethanolic hydrochloric acid (350 ml. of 0.5 N hydrochloric acid and 150 ml. of ethanol) was dissolved 5.0 g. of 4-triphenylmethyl-2-(1-hydroxy-4-indanyloxymethyl)-morpholine and the solution was refluxed 17 hours. After cooling the reaction mixture, ethanol was distilled away under reduced pressure until the whole volume of the reaction mixture became about 350 ml. Sodium chloride was added to the reaction mixture to cause salting out and the mixture was extracted three times each time with 200 ml. of chloroform. The chloroform extracts were combined, dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. Then, by adding acetone to the syrupy residue formed, 2.0 g. of 2-(7-indenyloxymethyl)morpholine hydrochloride was obtained as a precipitate.

reactant | hydrochloric acid | 0.5 N, 350 ml | Cl | ClH
reactant | 4-triphenylmethyl-2-(1-hydroxy-4-indanyloxymethyl)-morpholine | C1(=CC=CC=C1)C(N1CC(OCC1)C(O)OC1=C2CCCC2=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H33NO3
solvent | ethanol | C(C)O | C2H6O
product | 2-(7-indenyloxymethyl)morpholine hydrochloride | Cl.C1C=CC2=CC=CC(=C12)OCC1CNCCO1 | InChI=1S/C14H17NO2.ClH/c1-3-11-4-2-6-14(13(11)5-1)17-10-12-9-15-7-8-16-12;/h1-4,6,12,15H,5,7-10H2;1H
